US08211914B2
A mixture of 2-phenyl-5-ethyl-oxazole-4-carboxylic acid (180 mg, 0.829 mmol), 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (218 mg, 0.79 mmol), triethylamine (467 mL, 3.316 mmol), and BOP (366 mg, 0.89 mmol) in 5 mL DMSO was stirred at room temperature for 1.0 hr. The reaction was taken up in EtOAc (50 mL) and washed with hydrochloric acid (0.1N, 20 mL), water (20 mL), saturated sodium bicarbonate solution (20 mL), and brine (20 mL). The organic layer was dried with anhydrous magnesium sulfate and filtered to give 4-{4-[(2-phenyl-5-ethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester. ES-MS for C28H33N3O4 calcd. (m/e) 47.5, observed 476 (M−H).

reactant | 2-phenyl-5-ethyl-oxazole-4-carboxylic acid | 0.829 mmol, 180 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)CC | C12H11NO3
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.79 mmol, 218 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | triethylamine | 3.316 mmol, 467 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.89 mmol, 366 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-{4-[(2-phenyl-5-ethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1CC)C1=CC=CC=C1 | C28H33N3O4
